US08222416B2
A solution of 4-[1-(1-benzenesulfonyl-5-fluoro-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclopentyl-vinyl]-N-tert-butyl-benzamide (1.0 g, 1.83 mmol) in tetrahydrofuran (0.5 mL) and a tetrabutylammonium fluoride solution in tetrahydrofuran (1 M, 10 mL, 10 mmol) was stirred at room temperature for 12 h. The mixture was diluted with ethyl acetate (150 mL), washed with a saturated aqueous ammonium chloride solution and brine, dried over anhydrous sodium sulfate and concentrated in vacuo to afford N-tert-butyl-4-[2-cyclopentyl-1-(5-fluoro-1H-pyrrolo[2,3-b]pyridin-2-yl)-vinyl]-benzamide (380 mg, 51.1%) as a white solid: LC/MS m/e calcd for C25H28FN3O [M+H]+ 406.52, observed 406.0.

reactant | 4-[1-(1-benzenesulfonyl-5-fluoro-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclopentyl-vinyl]-N-tert-butyl-benzamide | 1.83 mmol, 1.0 g | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)F)C(=CC2CCCC2)C2=CC=C(C(=O)NC(C)(C)C)C=C2 | C31H32FN3O3S
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 0.5 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 10 mmol, 1 M, 10 mL | O1CCCC1 | C4H8O
product | N-tert-butyl-4-[2-cyclopentyl-1-(5-fluoro-1H-pyrrolo[2,3-b]pyridin-2-yl)-vinyl]-benzamide | 380 mg, 51.1% | C(C)(C)(C)NC(C1=CC=C(C=C1)C(=CC1CCCC1)C1=CC=2C(=NC=C(C2)F)N1)=O | C25H28FN3O
